Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Increasing edema, chest pain

 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
This is a ___ yo M w/ a PMH of recent gunshot wound w/ extensive 
chest / cardiac damage and TV replacement w/ a complicated 
post-op course and recent VATS intrapleural pneumolysis for 
right sided empyema who presents w/ approx two weeks of dyspnea, 
increasing ___ edema and pleuritic chest pain. 

He was hospitalized at ___ in ___ following a gunshot 
wound. His post-operative course was complicated by atrial 
fibrillation, reintubation for respiratory distress, left side 
pleural effusion requiring chest tube placement, ___ with 
hyponatremia, and serratia bacteremia, stenotrophomonas and 
enterobacter pneumonia as well as C.Diff colitis for which he 
completed a course of vanc, fagyl, cefepime and bactrim. He was 
transferred to a rehab hospital on ___ and since that time 
he had been recovering well, his transaminitis and ___ have been 
improving, until ___ when he was noted to be having a 
leukocytosis of 16 ___s low grade fevers. C.diff was 
checked and noted to be positive so PO vancomycin was started. 
He was also started on IV vancomycin and meropenem out of 
concern for systemic infection in the setting of his prosthetic 
tricuspid valve. A CT of the thorax was obtained and found  
persistent bilateral effusions. The left effusion had air 
pockets that were not seen on a prior CT from ___ which was 
concerning for empyema. Per report the CT scan also shows an 
area of large bowel that is consistent with colitis likely 
secondary to his c.diff infection. Blood culture data was only 
significant for ___ bottles coag neg staph, subsequent bottles 
were negative, this was likely a contaminant. PICC line was 
placed on ___ for difficult IV access. For treatment of the 
empyema he underwent VATS intrapleural pneumolysis and 
decortication on ___. He was subsequently discharged to a 
rehab facility.

Over the several weeks he has been having progressive dyspnea on 
exertion, sharp pleuritic chest pain radiating to the back, and 
increasing lower extremity edema. pleuritic chest pain radiating 
to theback, and lower extremity edema. He is also reporting 
chest pain, which is worse when palpated, to the left of his 
sternum below the nipple. He was seen by Cardiothoracic surgery 
yesterday in follow up clinic and subsequently admitted due to 
concern for heart failure. An echo demonstrated a moderately 
dilated LA and RA w/ an EF of 60%, hypertrophied right free wall 
w/ normal RV chamber sizes and depressed free wall activity. 
Higher than expected gradients for the trisucpid prosthesis were 
noted. An EKG was notable for RVH and RBBB, without ST or T wave 
abnormalities concerning for acute ischemia. He is currently 
being diuresed with Lasix. 
 

 
Past Medical History:
1. CARDIAC RISK FACTORS: Hypertension
2. CARDIAC HISTORY:  See cardiac surgery below  
3. OTHER PAST MEDICAL HISTORY:  
s/p left VATS intrapleural pneumolysis and decortication of lung 
 
___ 
s/p  washout and closure of the chest and again on ___ for 
abdominal washout and closure 
s/p gunshot wound ___ complicated by multiple cardiac arrests 
in the field, cardiac tamponade, subsequent repair of the right  

ventricular free wall, repair of the tricuspid valve with a size 
 
___ ___ Mosaic Tissue Valve, repair of the ventricular  
septal defect with a dacron patch and exploratory laparotomy for 
 
repair of a diaphragm laceration and repair of multiple liver  
lacerations with chromic sutures and argon beam coagulation 
 
Social History:
___
FAMILY HISTORY:  
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory
 
Family History:
Non-contributory
 
Physical Exam:
Admission Exam:
VS- 97.9 158/88 70 20 100% on 4 L NC  
GENERAL- WA, NAD, speaks some ___ native language in 
___, AO X 3.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple w/ an elevated JVP to the level of the ear.  
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2, S3, S4 appreciated. No thrills, lifts. 
No rubs.   
LUNGS-  diminshed respiratory effort w/ crackles bilaterally at 
the bases, no wheezing or rales apprecaited     
ABDOMEN- Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES- Significant ___ edema bilaterally to the level of 
pelvis
SKIN- No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES-  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 .
Discharge Exam:
T 98.4, HR 76, BP 125/85, RR 18, O2 sat 98% on RA I/O:2920/6700 
Wt:81.2Kg<-84.4
GEN: No acute distress. Laying in bed. Conversive
CV: Regular rate and rhythm rhythm, loud S2, JVP ~10-12 cm
PULM: CTAB. Good air flow. NO crackles, rales, or wheeze
ABD: BS+4. S/ND. Surgical dressing is c/d/i. RUQ TTP resolved. 
No rigidity, rebound or guarding. Cath site on R. groin NT with 
minimla surrounding edema, no bruits, and no evidence of 
hematoma.
EXT: 1+ edema of BLE  
NEURO: A/Ox3, CN II-XII intact, non focal. 
Pulses: Peripheral pulses 2+
.
 
Pertinent Results:
___ 07:40PM BLOOD WBC-9.6 RBC-3.35*# Hgb-8.6* Hct-27.6* 
MCV-83 MCH-25.7* MCHC-31.2 RDW-16.4* Plt ___
___ 07:40PM BLOOD Plt ___
___ 07:38AM BLOOD ___ PTT-40.5* ___
___ 07:40PM BLOOD Glucose-89 UreaN-6 Creat-0.7 Na-138 K-3.5 
Cl-99 HCO3-33* AnGap-10
___ 07:40PM BLOOD Calcium-8.5 Phos-3.7 Mg-2.0
.
Discharge Labs:
___ 07:44AM BLOOD WBC-9.3 RBC-3.93* Hgb-10.0* Hct-32.1* 
MCV-82 MCH-25.4* MCHC-31.0 RDW-16.2* Plt ___
___ 07:44AM BLOOD ___ PTT-38.2* ___
___ 07:44AM BLOOD Glucose-92 UreaN-17 Creat-1.1 Na-139 
K-4.3 Cl-98 HCO3-31 AnGap-14
___ 07:44AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.1
.
Pertinent Labs:
___ 07:40PM BLOOD %HbA1c-4.7* eAG-88*
.
Studies:
___ CXR PA/Lat:  No major interval changes.  Observe that 
the next preceding examination was already a study four days 
following the empyema surgery. All drainage tubes have been 
removed from the left hemithorax already at that time. 
.
___ TTE: The left atrium is moderately dilated. The right 
atrium is moderately dilated. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF 60%). The 
right ventricular free wall is hypertrophied. Right ventricular 
chamber size is normal. with depressed free wall contractility. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Trace aortic regurgitation 
is seen. There is no mitral valve prolapse. Mild to moderate 
(___) mitral regurgitation is seen. A bioprosthetic tricuspid 
valve is present. The gradients (7 mmHg at minimum; spectral 
Doppler measurements taken non-coaxially)) are higher than 
expected for this type of prosthesis. There is a 
trivial/physiologic pericardial effusion.  
.
___ CXR PA/Lat:
Mild cardiomegaly and widened mediastinum are stable. Moderate 
bilateral 
pleural effusions with adjacent atelectasis have increased on 
the left.  Fluid in the right fissure is again noted. Right mid 
lung atelectases are unchanged. There is no evident 
pneumothorax. Sternal wires are aligned.  Healed fracture in the 
third right rib is again noted. 
.
___ RUQ U/S:
1. 2.4 cm avascular heterogeneous but predominantly hyperechoic 
lesion within hepatic segment VIII at site of prior laceration 
likely reflects resolving hematoma. 
2. Hepatopetal portal venous flow with increased phasicity 
likely related to congestive heart failure.   
3. Coarse liver texture.  When considered in conjunction with 
prior CT, 
findings are concerning for cirrhosis. No ascites. 
4. Galbladder wall thickening, without gallbladder distention. 
Likley related to liver disease or secondarily to CHF. 
.
___ CXR: 
Near resolution of interstitial edema. Persistent pleural 
effusions and multifocal atelectasis. 
.
___ R and L sided heart Cath: 
     1.Patent coronary arteries
     2.Normal filling pressures, cardiac output and cardiac 
        index
     3.No step-up or step-down in O2 saturation
     4.Brief episode of AFib with RVR treated with BB and 
        eventually reverted to sinus rhythm

 
Brief Hospital Course:
___ y/o M with PMHx of GSW to the chest resulting in multiple 
thoracic and abdominal injuries including tricuspid valve damage 
s/p TVR, RV free wall and septum perforation s/p repair. 
Presented with new onset R sided heart failure. Initially 
thought to be secondary to small TV replacement, however, after 
large volume diuresis, HD parameters normalized and TV gradient 
<4mm hg. Discharged home with PO lasix and instructed to engage 
in low salt diet.
.
Active Issues
# Acute decompensated CHF: Pt presented with clinical e/o both R 
and L sided CHF including 3+ BLE to knees, JVD, and crackles. 
Given recent TVR, thought that he may have an undersized valve 
along with decreased RV systolic function ___ GSW. LVEF was 
normal on initial echo, but TTE with mild/moderate MR, which may 
be contributing to his pulmonary edema. Placed on fluid and Na 
restriction, with daily weights and I/Os. Started on lasix gtt 
at 10cc/hr, and diuresed until edema resolved. This resulted in 
resolution of all symptoms. All electrolytes were agressively 
repleted. Pt underwent cardiac catheterization which showed no 
CAD, step-up or step-downs in O2, and normal filling pressures. 
Echo after diuresis did not demonstrate significant gradient 
across tricuspid valve replacement, so patient was discharged 
home on PO diuretics and instructed to keep to low soduium diet. 
Unclear of exact etiology of exacerbation. 
.
# Abd Pain: Pt presented with RUQ abdominal pain. This was 
likely secondary to congestive hepatopathy, as it resolved with 
diuresis. RUQ U/S showed findings concerning for cirrhsis, which 
will likely need to be followed up as outpatient. Transaminases 
WNL. 
.
# Atrial Fibrillation: A-fib occurred ___, during 
last admission so patient was started on amiodarone for rhythm 
control. When he was admitted this time, he was in NSR. Given 
significant SEs of amio, this was stopped. Developed several 
episodes of paroxysmal a. fib in-house. Because of this, he was 
started on PO coumadin (CHADS=2) and metoprolol for rate 
control.
.
Chronic Issues
#HTN: H/o HTN. Controlled on home meds.
.
Transitional Issues:
#Will need INR check by PCP
___ likely need liver biopsy to evaluate for cirrhosis
#Close f/u with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO/PR Q4H:PRN temperature >38.0 
2. Amiodarone 200 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Furosemide 20 mg PO BID 
5. Metoprolol Tartrate 12.5 mg PO BID 
hold and call ___ for SBP<90
HR<55 
6. Heparin 5000 UNIT SC TID 
7. Nystatin Cream 1 Appl TP BID groin 
8. Oxycodone SR (OxyconTIN) 10 mg PO Q12H 
9. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
10. Vancomycin Oral Liquid ___ mg PO Q6H 
11. Famotidine 20 mg PO Q12H 
12. Multivitamins 1 TAB PO DAILY 
13. Sarna Lotion 1 Appl TP TID:PRN itching 
apply to back as needed 
14. Bisacodyl 10 mg PR HS:PRN constipation 
15. Docusate Sodium 100 mg PO BID 
16. TraMADOL (Ultram) 50 mg PO QID 
17. Sodium Chloride 1 gm PO TID 

 
Discharge Medications:
1. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
3. TraMADOL (Ultram) 50 mg PO QID 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate [Imdur] 60 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
5. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
6. Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
7. Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
8. Aspirin 81 mg PO DAILY 
9. Bisacodyl 10 mg PR HS:PRN constipation 
10. Docusate Sodium 100 mg PO BID 
11. Famotidine 20 mg PO Q12H 
12. Multivitamins 1 TAB PO DAILY 
13. Nystatin Cream 1 Appl TP BID groin 
14. Oxycodone SR (OxyconTIN) 10 mg PO Q12H 
15. Sarna Lotion 1 Appl TP TID:PRN itching 
apply to back as needed 
16. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Restrictive Pericardial Disease
Congestive Heart Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

It was a pleasure caring for you at the ___ 
___. You were admitted for congestive heart failure. 
We gave you medications to remove the excess fluid from your 
body. We also performed a cardiac catheterization that showed 
the pressure in your heart is largely normal after the fluid 
removal. Your heart failure may be due to scar in the tissue 
around your heart from your gun shot wound. It will be very 
important to minimize the amount of fluid and salt you eat to 
avoid fluid buildup. 

While you were here, you developed atrial fibrillation, which is 
an abnormal heart rhythm that can lead to blood clots. For this, 
we started you on a new medication called Coumadin that prevents 
blood clots; it is very important that you have a blood test 
called INR performed on ___ by your PCP, ___, to 
make sure the level of Coumadin is correct for you. 

Weigh yourself every day. If your weight increases by more than 
3 lbs please call your Cardiologist. 

Please note the following changes to your medicaitons: 
STARTED Metoprolol
STARTED Imdur
STARTED Lisinopril
STARTED Coumadin
STARTED Torsemide
STOPPED Amiodarone
STOPPED Furosemide
 
Followup Instructions:
___